US05371247
N-(1-methyl-2,2-dimethylpropyl)-1-methylthio-2-nitroetheneamine
To an aqueous solution of dipotassium nitrodithioacetate (300 g 15% by weight) was added pinacolylamine (32 g) over 1 hour. After heating to 60° C. and maintaining this temperature for 4 hours, the reaction mixture was cooled to ambient temperatures and stirred overnight. Benzyltrimethylammonium chloride (3 g ), was then charged, followed by dimethyl sulphate (66 g) over one hour. After stirring overnight, the reaction mixture was extracted three times with 50ml aliquots of dichloromethane. After drying over MgSO4, the combined organic phases were concentrated and the residue recrystallised from 2-propanol to give 13 g (33%) of the title compound (m.p. 69° C.) which is believed to be novel.

reactant | dipotassium nitrodithioacetate | 300 g | [N+](=O)([O-])CC(=S)[S-].[K+].[K+].[N+](=O)([O-])CC(=S)[S-]
reactant | pinacolylamine | 32 g | C(C)(C(C)(C)C)N | C6H15N
reactant | dimethyl sulphate | 66 g | S(=O)(=O)(OC)OC | C2H6O4S
catalyst | Benzyltrimethylammonium chloride | 3 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
product | N-(1-methyl-2,2-dimethylpropyl)-1-methylthio-2-nitroetheneamine | 13 g, 33% | CC(C(C)(C)C)NC(=C[N+](=O)[O-])SC | C9H18N2O2S
